US07897762B2
Using the procedure of Example A4 step 3, diphosgene (1.3 g, 6.4 mmol), 5-((4-fluoro-2-methyl-5-nitrophenylamino)methyl)-N4-isopropyl-N2-methoxy-N2-methylpyridine-2,4-diamine (2.0 g, 5.3 mmol) and Et3N (2.2 g, 21.2 mmol) were reacted in dioxane to give 3-(4-fluoro-2-methyl-5-nitrophenyl)-1-isopropyl-7-(methoxy(methyl)amino)-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one (1.5 g, 70% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.18 (d, J=7.2 Hz, 1 H), 7.94 (s, 1 H), 7.55 (d, J=12.4 Hz, 1 H), 6.68 (s, 1 H), 4.77 (d, J=13.6 Hz, 1 H), 4.45-4.37 (m, 2 H), 3.71 (s, 3 H), 3.13 (s, 3 H), 2.14 (s, 3 H), 1.46 (t, J=6.4 Hz, 6H).

reactant | diphosgene | 6.4 mmol, 1.3 g | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | 5-((4-fluoro-2-methyl-5-nitrophenylamino)methyl)-N4-isopropyl-N2-methoxy-N2-methylpyridine-2,4-diamine | 5.3 mmol, 2.0 g | FC1=CC(=C(C=C1[N+](=O)[O-])NCC=1C(=CC(=NC1)N(C)OC)NC(C)C)C | C18H24FN5O3
reactant | Et3N | 21.2 mmol, 2.2 g | CCN(CC)CC | C6H15N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-(4-fluoro-2-methyl-5-nitrophenyl)-1-isopropyl-7-(methoxy(methyl)amino)-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one | 1.5 g, 70% yield | FC1=CC(=C(C=C1[N+](=O)[O-])N1C(N(C2=C(C1)C=NC(=C2)N(C)OC)C(C)C)=O)C | C19H22FN5O4
